US06521643B1
A suspension of 4-(4-methylpyridin-2-yl)-2-nitrotoluene (342 mg) in ethanol (7 ml) was hydrogenated over palladium on carbon (10% w/w, 50% wet, 103 mg) under a hydrogen atmosphere for 3 hours. The catalyst was filtered off, and the filtrate was evaporated under reduced pressure to give 2-methyl-5-(4-methylpyridin-2-yl)aniline (297 mg).

reactant | 4-(4-methylpyridin-2-yl)-2-nitrotoluene | 342 mg | CC1=CC(=NC=C1)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C13H12N2O2
solvent | ethanol | 7 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 103 mg | [Pd] | Pd
product | 2-methyl-5-(4-methylpyridin-2-yl)aniline | 297 mg | CC1=C(N)C=C(C=C1)C1=NC=CC(=C1)C | C13H14N2
